Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics)
 
Attending: ___.
 
Chief Complaint:
Hematochezia
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ year old female with palpitations
on aspirin presented to the ED with BRBPR.

Per ED dashboard, patient reports ___ year history of
intermittent BRBPR with associated abdominal and chest pain. She
had never seen a physician for this before, but did have a
negative colonoscopy about ___ years ago. On the night prior to
presentation, she developed worsening intermittent abdominal 
pain
that radiated to her chest. It is in the left upper quadrant and
mid-epigastric region. The feeling is mostly bloating. This was
also associated with nausea. She then developed urgency and 
BRBPR
___ drops of blood and mucus) and was incontinent of stool. 
She
noted incomplete stooling. She proceeded to have multiple
episodes of BRBPR and continued to have stool incontinence. The
patient denies fever, chills, sick contacts, or recent 
antibiotic
use. 

She also noted that she had a racing heart during this time, but
has had random periods of time with palpitations throughout the
years. She said this chest/palpitations are at his baseline. She
presented to the ED since she was lightheaded and weak feeling
and not tolerating much food/had lack of appetite. 

In the ED, vitals were unremarkable and exam was notable only 
for
TTP in the RLQ vs mid-epigastrum without rebound or guarding.
Stool guaiac was negative. An ECG was obtained NSR with poor
baseline at rate 73 with normal intervals and axis, normal 
R-wave
progression, +LVH by apical voltage with associated horizontal
1mm apical ST depressions in V4-V6 that were worse than a prior
ECG in ___. 

Lab work up showed a normal WBC count, hemoglobin, and platelet
count. She had a low potassium, but otherwise un-concerning
chemistry with a normal creatinine. Troponins were negative
twice. lactate was low at 0.9 and a UA was negative. 

A CT scan of her abdomen showed wall thickening and submucosal
edema of the rectum compatible with proctitis. No evidence of
obstruction and normal appendix. She also has a fibroid uterus
with 2 dominant fibroids that had increased in size from prior. 

Cardiology was consulted because of the ST depressions and her
chest discomfort. They reviewed her prior data including a 
stress
test in ___ that was normal. They felt that her chest pain was
atypical and exaggerated baseline lateral repolarization
abnormalities that could be related to demand/hypovolemia w/ her
increased stooling. They recommended working up her GI symptoms,
giving fluids, continuing BB and ASA if not bleeding. She should
get follow up with Dr. ___.  

She was given potassium repletion, flagyl, ceftriaxone, and
normal saline. 

Upon arrival to the floor, the patient reports the above 
history.
She is very concerned she may have cancer as her husband has a
colon cancer diagnosis. She also notes a + cough the last 2
months. When asked about her prior ___ for TB she says she had
work up here for the cough last month. She says she has had
intermittent rashes on her shoulders and genital region that was
painful, none currently, that she was told previously was
shingles. She denies any other rashes. She notes some bilateral
ankle pain and swelling that is chronic. No other joint pain. 

Her ROS was negative for headache, sore throat, wheezing,
shortness of breath, constipation, she has baseline urinary
frequency, but no burning with urination. Pertinent positives 
and
negatives otherwise provided above. 
 

 
Past Medical History:
Palpitations
Depression
 
Social History:
___
Family History:
Mother and father died in their ___ from lung problems. No
history of colon/GI problems. No autoimmune history. No thyroid
history. 
 
Physical Exam:
Admission:
VITALS:  24 HR Data (last updated ___ @ 335)
    Temp: 98.8 (Tm 98.8), BP: 146/81, HR: 75, RR: 18, O2 sat:
98%, O2 delivery: ra  
General: Alert, oriented, no acute distress  
HEENT: Sclerae anicteric, MMM, oropharynx clear, EOMI, PERRL,
neck supple, JVP not elevated, no LAD  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs,
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales,
rhonchi  
Abdomen: Soft, mildly tender in the mid-epigastrum,
non-distended, bowel sounds present, no organomegaly, no rebound
or guarding  
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis. 1+
edema bilaterally to the ankles. 
Skin: Warm, dry, no rashes or notable lesions.  
Neuro: AOx3, moving all extremities, ambulating normally 

DISCHARGE EXAM:
PHYSICAL EXAM:  
Vitals: ___ 0749 Temp: 98.3 PO BP: 117/74 HR: 64 RR: 20 O2
sat: 96% O2 delivery: RA 

General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM
Lungs: Clear to auscultation bilaterally, no wheezes, rales,
rhonchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs,
gallops  
Abdomen: soft, mild TTP in mid-epigastrum, non-distended, bowel
sounds present, no rebound tenderness or guarding
Ext: Warm, well perfused, no clubbing, cyanosis or edema  
Neuro: Face grossly symmetric. Moving all limbs with purpose
against gravity. 
 
Pertinent Results:
Admission Labs:

___ 10:00PM BLOOD WBC-8.4 RBC-3.89* Hgb-12.2 Hct-37.9 
MCV-97 MCH-31.4 MCHC-32.2 RDW-13.4 RDWSD-47.9* Plt ___
___ 10:00PM BLOOD Glucose-120* UreaN-12 Creat-0.7 Na-146 
K-3.2* Cl-107 HCO3-24 AnGap-15
___ 10:00PM BLOOD ALT-19 AST-23 AlkPhos-52 TotBili-0.2
___ 10:00PM BLOOD cTropnT-<0.01
___ 07:26AM BLOOD Calcium-7.9* Phos-2.3* Mg-1.7

Discharge Labs:
___ 07:59AM BLOOD WBC-4.4 RBC-4.21 Hgb-13.1 Hct-41.4 MCV-98 
MCH-31.1 MCHC-31.6* RDW-13.2 RDWSD-47.6* Plt ___
___ 07:59AM BLOOD Plt ___
___ 07:59AM BLOOD Glucose-90 UreaN-15 Creat-0.6 Na-143 
K-4.1 Cl-103 HCO3-27 AnGap-13
___ 07:55AM BLOOD Calcium-9.1 Phos-4.0 Mg-2.1
___ 08:09AM BLOOD calTIBC-281 Ferritn-487* TRF-216
___ 01:56AM BLOOD TSH-6.4*
___ 08:09AM BLOOD T4-8.4 T3-123

Studies:
1. Wall thickening and submucosal edema of the rectum, 
compatible with 
proctitis.  No evidence of obstruction.  The appendix is normal. 

2. Fibroid uterus with two dominant exophytic fibroids, the 
larger of which 
measures 4.6 x 6.5 cm, mildly increased in size as compared to 
CT abdomen 
pelvis ___. 
3. Ill-defined hypoattenuation of the lower uterine segment, 
which could 
represent postsurgical change.  This could be evaluated on 
nonemergent 
ultrasound if clinically warranted 

 
Brief Hospital Course:
See D/C Worksheet
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Metoprolol Succinate XL 37.5 mg PO DAILY 
2. LOPERamide 2 mg PO QID:PRN loose stools 
3. Acetaminophen 500 mg PO Q6H:PRN Pain - Mild/Fever 
4. Aspirin 81 mg PO DAILY 
5. estradiol 0.01 % (0.1 mg/gram) vaginal EVERY OTHER DAY 
6. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1.  DICYCLOMine 20 mg PO QID  
2.  Ranitidine 75 mg PO BID  
3.  Acetaminophen 500 mg PO Q6H:PRN Pain - Mild/Fever  
4.  Aspirin 81 mg PO EVERY OTHER DAY  
5.  Docusate Sodium 100 mg PO BID  
6.  estradiol 0.01 % (0.1 mg/gram) vaginal EVERY OTHER DAY  
7.  LOPERamide 2 mg PO QID:PRN loose stools  
8.  Metoprolol Tartrate 37.5 mg PO BID  
9.  Multivitamins 1 TAB PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnoses
=================
Hematochezia
Proctitis

Secondary Diagnoses
===================
Palpitations
Tachycardia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms ___,
  
It was a pleasure caring of you at ___.  

WHY WAS I IN THE HOSPITAL?  
- You were admitted for abdominal pain and bloody bowel 
movements.

WHAT HAPPENED TO ME IN THE HOSPITAL?  
- A CT scan showed inflammation of your rectum, called 
proctitis.
- You were seen by the GI doctors, who performed a flexible 
sigmoidoscopy to evaluate part of your colon.
- Your bleeding slowed down while in the hospital. 
- You started a medication (dicyclomine) to help with abdominal 
cramps. You also started a medication (ranitidine) to help with 
abdominal pain.

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?  
- Continue to take all your medicines and keep your 
appointments. 
- Please phone the Gastroenterology team at ___ if you 
have an episode of major bleeding (more than ___ cup).
- Please follow-up with your primary care doctor and the 
gastroenterologist at the appointments below. You will receive a 
full colonoscopy within ___ weeks as below.
- Please continue aspirin every other day. Please avoid any 
other NSAID medications such as ibuprofen, advil, or motrin, as 
these may worsen bleeding.

We wish you the best!  

Sincerely,  

Your ___ Team
 
Followup Instructions:
___